US09120805B2
To a suspension of 143 mg (0.5 mmol) 7-fluoro-3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-pyrrolo[1,2-a]pyrazin-1-one and 71.5 mg (1.1 mmol) sodium azide in 1 ml dichloromethane is added dropwise under external cooling with ice a solution of 316 μl (4.1 mmol) trifluoroacetic acid in 0.6 ml dichloromethane. The reaction mixture is stirred for 3 hours at 0° C. Ice and 25% aqueous ammonia are added to obtain a two-phase mixture with a pH of 11. Then a 1:1 mixture of cyclohexane/ethyl acetate is added. The organic phase is separated, dried over sodium sulfate and evaporated to afford 3-[4-(1-azido-1-methyl-ethyl)-phenyl]-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one as beige powder; HPLC/MS 2.29 min (A), [M+H] 312.

reactant | 7-fluoro-3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-pyrrolo[1,2-a]pyrazin-1-one | 0.5 mmol, 143 mg | FC=1C=C2N(C=C(NC2=O)C2=CC=C(C=C2)C(C)(C)O)C1 | C16H15FN2O2
reactant | sodium azide | 1.1 mmol, 71.5 mg | [N-]=[N+]=[N-].[Na+]
reactant | trifluoroacetic acid | 4.1 mmol, 316 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 3-[4-(1-azido-1-methyl-ethyl)-phenyl]-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one | N(=[N+]=[N-])C(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=C(C2)F)=O | C16H14FN5O
